US04007184
2-Acetonyl-1,3-oxazoline
To a solution of 8.5 g. (0.1 mole) of 2-methyl-1,3-oxazoline in 85 ml. of dry tetrahydrofuran, and cooled in an acetone-dry ice bath to -60° C., is added 6.4 g. (0.1 mole) of n-butyl lithium and the reaction mixture allowed to stir for 1 hour. To the cloudy solution is then added 7.8 g. (0.1 mole) of acetyl chloride at such a rate that the temperature is maintained below -50° C. The reaction mixture is allowed to warm to room temperature and is then filtered and the solvent removed in vacuo. The desired product is purified by distillation under reduced pressure.

reactant | 2-methyl-1,3-oxazoline | 0.1 mole | CC=1OCCN1 | C4H7NO
reactant | n-butyl lithium | 0.1 mole | C(CCC)[Li]
reactant | acetyl chloride | 0.1 mole | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Acetonyl-1,3-oxazoline | C(C(=O)C)C=1OCCN1 | C6H9NO2
